US05817690
1-(2-Chloroethoxy)-2,6-dibromo-4-fluorobenzene
A mixture of 2,6-dibromo-4-fluoro-phenol (55 g, 0.20 mol), potassium carbonate (60 g, 0.43 mol), 1-bromo-2-chloroethane (32.5 g, 0.23 mol) and 2-butanone (500 mL) was heated to reflux for 2 hours and allowed to cool to ambient temperature. The solids were filtered and the solvent was removed under vacuum to afford an oil. The oil was dissolved in diethyl ether (300 mL) and washed with water, dried over anhydrous magnesium sulfate, charcoalized, and filtered through Solka floc to afford 65.9 g (97.2%) of an oil; MS EI m/e 330/332/334/336 (M+ ; 1H NMR (CDCl3) δ 3.89 (2H, t, J=6.1 Hz), 4.23 (2H, t, J=6.1 Hz), 7.28 (2H, d, J=7.5 Hz).

reactant | 2,6-dibromo-4-fluoro-phenol | 0.20 mol, 55 g | BrC1=C(C(=CC(=C1)F)Br)O | C6H3Br2FO
reactant | potassium carbonate | 0.43 mol, 60 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-2-chloroethane | 0.23 mol, 32.5 g | BrCCCl | C2H4BrCl
reactant | 2-butanone | 500 mL | CC(CC)=O | C4H8O
solvent | diethyl ether | 300 mL | C(C)OCC | C4H10O
product | 1-(2-Chloroethoxy)-2,6-dibromo-4-fluorobenzene | 65.9 g, 97.2% | ClCCOC1=C(C=C(C=C1Br)F)Br | C8H6Br2ClFO
